US08017779B2
The general method described in Part E of Example 1 was followed using 1-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol and 2-oxazolidinone as reactants in lieu of 7-bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine and 2-pyrrolidinone. The product, 3-[4-amino-2-ethoxymethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxazolidin-2-one, was isolated as a flocculent white solid, mp >250° C.

reactant | 1-(4-amino-7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(O)C)COCC)Br | C17H21BrN4O2
reactant | 2-oxazolidinone | O1C(NCC1)=O | C3H5NO2
reactant | 7-bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CCCOC(C)C)COCC | C19H25BrN4O2
reactant | 2-pyrrolidinone | N1C(CCC1)=O | C4H7NO
product | 3-[4-amino-2-ethoxymethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxazolidin-2-one | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)O)COCC)N2C(OCC2)=O | C20H25N5O4
